* PFD_lib -- LVS golden netlist for the library-cell PFD (Aug-14 layout)
* Topology = our PFD_v1 (2 reset-DFFs + coincidence NAND), leaves = gf180 std cells.
* Reset path has 2x inv_1 delay (RSTN) to restore min pulse to 0.50 ns (verification 2.2).
* Layout must LVS uniquely against this subckt.
.subckt PFD_lib REF FB UP DOWN VDD VSS
* tie-high cells for D (antenna/ESD-correct); LibreLane ties each D separately -> 2x tieh
*   tieh ports: Z VDD VNW VPW VSS
XTIE1 DHI1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__tieh
XTIE2 DHI2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__tieh
* DFFs: D=DHIx (tied high), clocked by REF/FB, async active-low reset RN=RSTN
*   dffrnq_1 ports: D RN CLK Q VDD VNW VPW VSS  (VNW=VDD, VPW=VSS)
X1 DHI1 RSTN REF  UP   VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X2 DHI2 RSTN FB   DOWN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
* coincidence: nand2_1 ports A1 A2 ZN VDD VNW VPW VSS
XN UP DOWN NANDO VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
* reset delay: 2x inv_1 (ports I ZN VDD VNW VPW VSS), polarity preserved
XI1 NANDO NDLY VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
XI2 NDLY  RSTN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__inv_1
.ends PFD_lib
